US07087601B2
Utilizing the general procedure outlined in the synthesis of 2-[4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl]propanenitrile, 4-(1,3-benzoxazol-2-yl)-2-methoxybenzonitrile (200 mg, 0.75 mmol) was reacted with 1-iodopropane (73 μL, 0.75 mmol) to afford the desired 2-[4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl]pentanenitrile as a yellow solid: 1H NMR (CDCl3, 300 MHz) δ 7.87–7.84 (d, 1H), 7.79–7.75 (m, 2H), 7.60–7.54 (m, 2H), 7.38–7.35 (m, 2H), 4.27–4.23 (t, 1H), 3.98 (s, 3H), 1.89–1.82 (M, 2H), 1.57–1.53 (m, 2H), 1.00–0.95 (t, 3H). MS (ESI) 307 (M+H)+.

reactant | 2-[4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl]propanenitrile | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)C(C#N)C)OC | C17H14N2O2
reactant | 4-(1,3-benzoxazol-2-yl)-2-methoxybenzonitrile | 0.75 mmol, 200 mg | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C#N)C=C2)OC | C15H10N2O2
reactant | 1-iodopropane | 0.75 mmol, 73 μL | ICCC | C3H7I
product | 2-[4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl]pentanenitrile | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)C(C#N)CCC)OC | C19H18N2O2
